US09029388B2
A) N′-[4-(Benzyloxy)phenyl]-2-chloropyridine-3-carbohydrazide
To a solution of 2-chloropyridine-3-carboxylic acid (3.30 g) in DMF (50 ml) were added [4-(benzyloxy)phenyl]hydrazine (5.0 g), HOBt (3.7 g), EDCI (4.6 g) and diisopropylethylamine (9.0 g), and the mixture was stirred at room temperature for 12 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layers were combined, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (5.0 g).

reactant | 2-chloropyridine-3-carboxylic acid | 3.30 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | [4-(benzyloxy)phenyl]hydrazine | 5.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN | C13H14N2O
reactant | HOBt | 3.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 4.6 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | diisopropylethylamine | 9.0 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N′-[4-(Benzyloxy)phenyl]-2-chloropyridine-3-carbohydrazide | 5.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NNC(=O)C=1C(=NC=CC1)Cl | C19H16ClN3O2
